US05879847
Into a three-necked flask, 14.6 g of sodium hydride and 700 ml of 1,2-dimethoxyethane were placed, and 130.8 g of trimethylphosphonium bromide was added thereto with stirring at room temperature. Next, after a drop of absolute alcohol was added, the reaction was allowed to proceed at 70° C. for 4 hours. Then, 100 g of 4-(N,N-diphenylamino)benzaldehyde was added thereto, and the temperature was raised to 70° C. to carry out reaction for 5 hours. The resulting reaction solution was filtered, and the filtrate and an ether-extract of the precipitate were put together and washed with water. Then, the ether solution was dehydrated with calcium chloride, and ether was removed to obtain a crude reaction product. After recrystallized from ethanol, accusal pale yellow vinyltriphenylamine was obtained in an amount of 83.4 g (yield: 84.0%).

reactant | sodium hydride | 14.6 g | [H-].[Na+]
reactant | trimethylphosphonium bromide | 130.8 g | [Br-].C[PH+](C)C
reactant | 4-(N,N-diphenylamino)benzaldehyde | 100 g | C1(=CC=CC=C1)N(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C19H15NO
reactant | 1,2-dimethoxyethane | 700 ml | COCCOC | C4H10O2
product | vinyltriphenylamine | yield: 84.0% | C(=C)C1=C(C=CC=C1)N(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17N
